US07312241B2
3-(2-Amino-5-methoxy-phenyl)-3-(3,4,5-trimethoxy-phenyl)-acrylonitrile was prepared analogously to 3-(3-amino-4-methoxy-phenyl)-3-(3,4-dimethoxy-phenyl)-acrylonitrile using 3-(5-methoxy-2-nitro-phenyl)-3-(3,4,5-trimethoxy-phenyl)-acrylonitrile (1.5 g, 4.0 mmol) and 10% Pd/C (0.2 g). The crude product was purified by flash chromatography (silica gel, CH2Cl2:EtOAc 85:15) to afford a single isomer of 3-(2-amino-5-methoxy-phenyl)-3-(3,4,5-trimethoxy-phenyl)-acrylonitrile (0.3 g, 25%) as a yellow solid: mp 132-134° C.; 1H NMR (CDCl3) δ 6.87-6.82 (dd, J=3, 8 Hz, 1H), 6.81 (s, 2H), 6.68 (d, J=2 Hz, 1H), 6.64 (d, J=8.8 Ha, 1H), 5.58 (s, 1H), 3.90 (s, 3H), 3.83 (s, 6H), 3.77 (s, 3H), 3.28 (b, 2H); 13C NMR (CDCl3) δ 161.09, 153.38, 152.40, 140.15, 138.26, 131.07, 125.44, 117.94, 117.84, 117.24, 115.55, 106.15, 96.46, 60.95, 55.79, 55.32; Anal Calcd for C19H20N2O4: C, 67.05; H, 5.92; N, 8.23. Found: C, 67.02; H, 6.02; N, 8.07.

reactant | 3-(3-amino-4-methoxy-phenyl)-3-(3,4-dimethoxy-phenyl)-acrylonitrile | NC=1C=C(C=CC1OC)C(=CC#N)C1=CC(=C(C=C1)OC)OC | C18H18N2O3
reactant | 3-(5-methoxy-2-nitro-phenyl)-3-(3,4,5-trimethoxy-phenyl)-acrylonitrile | 4.0 mmol, 1.5 g | COC=1C=CC(=C(C1)C(=CC#N)C1=CC(=C(C(=C1)OC)OC)OC)[N+](=O)[O-] | C19H18N2O6
catalyst | Pd/C | 0.2 g | [Pd] | Pd
product | 3-(2-amino-5-methoxy-phenyl)-3-(3,4,5-trimethoxy-phenyl)-acrylonitrile | 0.3 g, 25% | NC1=C(C=C(C=C1)OC)C(=CC#N)C1=CC(=C(C(=C1)OC)OC)OC | C19H20N2O4
